US07592342B2
Preparation of N-[5-(3-{4-[(2-methylpropyl)sulfonyl]-1-piperazinyl}-6-quinoxalinyl)-3-pyridinyl]benzenesulfonamide
To a solution of N-{5-[3-(1-piperazinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide (0.20 mmol) and triethylamine (0.20 mmol) in dichloromethane (2 ml) was added a sulfonyl chloride such as 2-methyl-1-propanesulfonyl chloride (0.22 mmol). The reaction stirred for 18 hours at ambient temperature and purified on silica by column chromatography (80% ethyl acetate/hexanes). The desired fractions were combined and concentrated to give the title compound (22 mg, 20%) as an off-white solid. MS(ES)+ m/e 567.3 [M+H]+.

reactant | N-{5-[3-(1-piperazinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide | 0.20 mmol | N1(CCNCC1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C23H22N6O2S
reactant | triethylamine | 0.20 mmol | C(C)N(CC)CC | C6H15N
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-methyl-1-propanesulfonyl chloride | 0.22 mmol | CC(CS(=O)(=O)Cl)C | C4H9ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-[5-(3-{4-[(2-methylpropyl)sulfonyl]-1-piperazinyl}-6-quinoxalinyl)-3-pyridinyl]benzenesulfonamide | 22 mg, 20% | CC(CS(=O)(=O)N1CCN(CC1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1)C | C27H30N6O4S2
